US08859544B2
Methyl 5-{[1-(2-methoxyethoxy)-2-methylindolizin-3-yl]carbonyl}-2-[(propylcarbamoyl)amino]benzoate
0.108 g (0.37 mmol) of triphosgene diluted in 1 ml of dioxane is added, under an inert atmosphere at ambient temperature, to 0.2 g (0.52 mmol) of methyl 2-amino-5-{[1-(2-methoxyethoxy)-2-methylindolizin-3-yl]carbonyl}benzoate in 5 ml of dioxane. The reaction medium is stirred for 1 hour at ambient temperature and then 0.22 ml (1.57 mmol) of triethylamine and 0.09 ml (1.05 mmol) of n-propylamine are added. After stirring for 18 hours, the reaction medium is hydrolysed with water. The aqueous phase is extracted with dichloromethane. The organic phase obtained is dried over sodium sulphate, filtered, and concentrated under reduced pressure. The solid obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (95/5) mixture. 170 mg of a yellow solid are obtained.

reactant | triphosgene | 0.37 mmol, 0.108 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methyl 2-amino-5-{[1-(2-methoxyethoxy)-2-methylindolizin-3-yl]carbonyl}benzoate | 0.52 mmol, 0.2 g | NC1=C(C(=O)OC)C=C(C=C1)C(=O)C1=C(C(=C2C=CC=CN12)OCCOC)C | C21H22N2O5
reactant | triethylamine | 1.57 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | n-propylamine | 1.05 mmol, 0.09 ml | C(CC)N | C3H9N
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | Methyl 5-{[1-(2-methoxyethoxy)-2-methylindolizin-3-yl]carbonyl}-2-[(propylcarbamoyl)amino]benzoate | 170 mg | COCCOC=1C(=C(N2C=CC=CC12)C(=O)C=1C=CC(=C(C(=O)OC)C1)NC(NCCC)=O)C | C25H29N3O6
